US07323431B2
2,2-Diisobutyl-3-methoxypropanol was prepared from 2,2-diisobutyl-1,3-propandiol and methyl iodide through the same procedure as described above.

reactant | 2,2-diisobutyl-1,3-propandiol | C(C(C)C)C(CO)(CO)CC(C)C | C11H24O2
reactant | methyl iodide | CI | CH3I
product | 2,2-Diisobutyl-3-methoxypropanol | C(C(C)C)C(CO)(COC)CC(C)C | C12H26O2
